US04863920
20.8 g of an equimolar mixture of methyltriphenylphosphonium bromide and sodium amide were stirred for 20 minutes in 80 ml of tetrahydrofuran. 15.08 g (50 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde was then added portionwise thereto, whereby the temperature rose to 43° with the evolution of ammonia. The mixture was stirred at room temperature for 1 hour, filtered and the filtrate was evaporated. After chromatography of the residue on silica gel while eluting with cyclohexane/ether/isopropanol (3:3:1) and recrystallization from ethyl acetate there was obtained (S)-8-chloro-11,12,13,13a-tetrahydro-1-vinyl-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 213°-215°.

reactant | sodium amide | [NH2-].[Na+]
reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde | 50 mmol, 15.08 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=O)CCC1)=O | C15H12ClN3O2
reactant | ammonia | N | H3N
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (S)-8-chloro-11,12,13,13a-tetrahydro-1-vinyl-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=C)CCC1)=O | C16H14ClN3O
